US04649150
2-Methylthio-4-(4-nitro-phenyl)-1H-imidazole
2-Mercapto-4-(4-nitro-phenyl)-1H-imidazole (21.1 g) was added in portions to a solution of sodium (2.3 g) in ethanol (190 ml). After 15 minutes of stirring, a solution of iodomethane (14.2 g) in ethanol (50 ml) was added dropwise. After an additional 2 hours of stirring at room temperature, the solution was evaporated to dryness. The residual solid was treated with water, filtered off and dried to give 18.1 g of the title compound.

reactant | 2-Mercapto-4-(4-nitro-phenyl)-1H-imidazole | 21.1 g | SC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2S
reactant | sodium | 2.3 g | [Na] | Na
reactant | iodomethane | 14.2 g | IC | CH3I
solvent | ethanol | 190 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Methylthio-4-(4-nitro-phenyl)-1H-imidazole | 18.1 g | CSC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2S
